US09029391B2
[4-(3,4-Difluoro-phenyl)-2-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl]-hydroxy-acetic acid methyl ester
To a mixture of conc. H2SO4 (2.5 ml) and methanol (7.5 ml) was added [4-(3,4-Difluoro-phenyl)-2-methyl-1-oxo-1,2-dihydro-isoquinolin-3-y]-trimethylsilanyloxy-acetonitrile (580 mg, 1.45 mmol), after addition, the resultant mixture was stirred at reflux overnight under N2. TLC showed SM was consumed, diluted with EA, adjusted with saturated NaHCO3 to pH=8˜9, extracted with EA, the organic layers was dried over Na2SO4 and concentrated to dryness to afford crude product. (m=430 mg, yield=79%). LCMS: (10-80 AB—2MIN-E.M): Rt=1.021, purity=64%, M+1=360.

reactant | H2SO4 | 2.5 ml | OS(=O)(=O)O | H2O4S
reactant | [4-(3,4-Difluoro-phenyl)-2-methyl-1-oxo-1,2-dihydro-isoquinolin-3-y]-trimethylsilanyloxy-acetonitrile | 1.45 mmol, 580 mg | FC=1C=C(C=CC1F)C1=C(N(C(C2=CC=CC=C12)=O)C)C(C#N)O[Si](C)(C)C | C21H20F2N2O2Si
reactant | methanol | 7.5 ml | CO | CH4O
product | [4-(3,4-Difluoro-phenyl)-2-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl]-hydroxy-acetic acid methyl ester | yield=79% | COC(C(O)C=1N(C(C2=CC=CC=C2C1C1=CC(=C(C=C1)F)F)=O)C)=O | C19H15F2NO4
